US06583138B1
3-Bromo-2-nitrothiophene
7.4 ml of fuming nitric acid was slowly added to 92.1 ml of acetic acid under ice-cooling, followed by stirring for 10 minutes, and a solution of 52.1 ml of acetic anhydride containing 25 g of 3-bromothiophene was slowly added in such a manner that the bulk temperature did not exceed 10° C., followed by stirring at 10 ° C. for 2 hours. Ice was added to the reaction solution, and the resulting crystals were collected by filtration, and washed with water and diethyl ether/n-hexane=1/5 successively, to give 17.4 g of the title compound.

reactant | nitric acid | 7.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 52.1 ml, 25 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
solvent | acetic acid | 92.1 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-2-nitrothiophene | 17.4 g | BrC1=C(SC=C1)[N+](=O)[O-] | C4H2BrNO2S
